US07700634B2
1-(Cyclohexyl)methyl-3-(5-{[N-isopropyl-N-(2-methoxyethyl)amino]methyl}-[1,2,4]-triazol-3-yl)-7-methoxy-1H-indole, hydrochloride salt
Hydrochloride gas was bubbled, for 30 mins, through a cooled (0° C.) solution of 1-(cyclohexyl)methyl-7-methoxy-1H-indole-3-carbonitrile (prepared as described in Example 1; 3.15 g, 11.0 mmol) in methanol (200 ml). The resulting mixture was left to stand for 72 h before being concentrated, by two thirds, in vacuo. Crystallisation of the product was achieved on addition of diethyl ether, and the resultant solid was collected via filtration to give 1-(cyclohexyl)methyl-7-methoxy-1H-indole-3-carboximidic acid methyl ester as the hydrochloride salt (3.82 g). 1-(Cyclohexyl)methyl-7-methoxy-1H-indole-3-carboximidic acid methyl ester hydrochloride salt (0.10 g, 0.297 mmol), hydrazine hydrate (0.289 ml, 5.94 mmol), aluminium chloride (39.6 mg, 0.297 mmol) and toluene (18 ml) were combined and the mixture was subjected to microwave irradiation for 60 min at 120° C. The resultant mixture was concentrated in vacuo, re-dissolved in toluene and concentrated in vacuo twice more. The obtained residue was suspended in a toluene/acetonitrile mixture (12/1) (19.5 ml) and chloroacetylchloride (0.118 ml, 1.49 mmol) added, before the mixture was subjected to microwave irradiation for 12 min at 120° C. The resultant mixture was concentrated in vacuo and re-dissolved in acetonitrile (3 ml). N-(2-methoxyethyl)isopropylamine (0.068 ml, 0.446 mmol), potassium carbonate (45.2 mg, 0.327 mmol) and sodium iodide (44 mg, 0.297 mmol) was added and the mixture was subjected to microwave irradiation for 5 min at 160° C. before being left to stand for 72 hours and then concentrated in vacuo. The obtained residue was purified by column chromatography eluting with 2.5%-5% (v/v) methanol in dichloromethane to afford the title compound as a 1:1 hydrochloride salt (46 mg). 1H NMR (400 MHz, CD3OD): 0.95-1.12 (2H, m), 1.13-1.24 (3H, m), 1.50 (6H, s (br)), 1.55-1.73 (5H, m), 1.79-1.93 (1H, m), 3.34-3.50 (5H, m), 3.70-3.99 (6H, m), 4.24 (2H, d, J 6.4), 4.67 (2H, s (br)), 6.70 (1H, d, J 7.7), 7.16 (1H, t, J 7.7), 7.95 (1H, d, J 7.7), 8.02 (1H, s (br)); EsIMS: m/z 440.3 [M+H]+.

reactant | 1-(Cyclohexyl)methyl-7-methoxy-1H-indole-3-carboximidic acid methyl ester hydrochloride salt | 0.297 mmol, 0.10 g | Cl.COC(=N)C1=CN(C2=C(C=CC=C12)OC)CC1CCCCC1
reactant | hydrazine hydrate | 5.94 mmol, 0.289 ml | O.NN
reactant | aluminium chloride | 0.297 mmol, 39.6 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | chloroacetylchloride | 1.49 mmol, 0.118 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | N-(2-methoxyethyl)isopropylamine | 0.446 mmol, 0.068 ml | COCCNC(C)C | C6H15NO
reactant | potassium carbonate | 0.327 mmol, 45.2 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.297 mmol, 44 mg | [I-].[Na+]
solvent | toluene acetonitrile | 19.5 ml | C1(=CC=CC=C1)C.C(C)#N
solvent | toluene | 18 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(Cyclohexyl)methyl-3-(5-{[N-isopropyl-N-(2-methoxyethyl)amino]methyl}-[1,2,4]-triazol-3-yl)-7-methoxy-1H-indole, hydrochloride salt | Cl.C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C1=NNC(=N1)CN(CCOC)C(C)C | InChI=1S/C25H37N5O2.ClH/c1-18(2)29(13-14-31-3)17-23-26-25(28-27-23)21-16-30(15-19-9-6-5-7-10-19)24-20(21)11-8-12-22(24)32-4;/h8,11-12,16,18-19H,5-7,9-10,13-15,17H2,1-4H3,(H,26,27,28);1H
